US08278482B2
4-Methyl-4-nitropentyl iodide
A solution of sodium iodide (17.41 g, 3.9 equiv, 116.6 mmol) in acetone (100 mL, 0.3 M) was added a flask which contained 4-methyl-4-nitropentyl methanesulfonate (6.73 g, 29.9 mmol). The flask was sealed with a septum and covered with aluminum foil and allowed to stir for 17 h. Water (20 ml) was added to the suspension and the acetone was removed by rotovap at reduced pressure. The aqueous solution was extracted with ethyl acetate (150 mL) and washed with 5% aqueous sodium thiosulfate solution (40 ml) and brine (40 ml). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to give a yellow oil (7.46 g, yield 92.0%). 1H NMR (CDCl3, 400 MHz): δ 1.60 (s, 6H), 1.78-1.82 (m, 2H), 2.01-2.04 (m, 2H), 3.14-3.18 (t, 2H). LRMS (ESI+) for C6H12INO2 (257.0); Found: 258 (MH+).

reactant | sodium iodide | 116.6 mmol, 17.41 g, 3.9 equiv | [I-].[Na+]
reactant | 4-methyl-4-nitropentyl methanesulfonate | 29.9 mmol, 6.73 g | CS(=O)(=O)OCCCC(C)([N+](=O)[O-])C | C7H15NO5S
reactant | aluminum | [Al] | Al
reactant | Water | 20 ml | O | H2O
solvent | acetone | 0.3 M, 100 mL | CC(=O)C | C3H6O
product | 4-Methyl-4-nitropentyl iodide | 7.46 g, yield 92.0% | CC(CCCI)(C)[N+](=O)[O-] | C6H12INO2
